US04569942
N-t-Butyl-6-chloro-3-(2-thenoyl)-2-oxindole-1-carboxamide
A solution of 667 mg (2.5 mmole) of N-t-butyl-6-chloro-2-oxindole-1-carboxamide and 684 mg (5.6 mmole) of 4-(N,N-dimethylamino)pyridine in 8 ml of N,N-dimethylformamide was cooled in an ice-bath, and then a solution of 410 mg (2.8 mmole) of 2-thenoyl chloride in 2 ml of N,N-dimethylformamide was added dropwise, with stirring. Stirring was continued for ca. 30 minutes, and then the reaction mixture was poured into a mixture of 60 ml of water and 2.5 ml of 3N hydrochloric acid. The resulting mixture was cooled in an ice-bath, and then the solid was recovered by filtration and recrystallized from ca. 30 ml of acetic acid. This afforded 425 mg of the title compound as yellow crystals, mp 160.5°-161.5° C. (slight decomposition).

reactant | N-t-butyl-6-chloro-2-oxindole-1-carboxamide | 2.5 mmole, 667 mg | C(C)(C)(C)NC(=O)N1C(CC2=CC=C(C=C12)Cl)=O | C13H15ClN2O2
reactant | 2-thenoyl chloride | 2.8 mmole, 410 mg | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | water | 60 ml | O | H2O
reactant | hydrochloric acid | 3N, 2.5 ml | Cl | ClH
catalyst | 4-(N,N-dimethylamino)pyridine | 5.6 mmole, 684 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-t-Butyl-6-chloro-3-(2-thenoyl)-2-oxindole-1-carboxamide | C(C)(C)(C)NC(=O)N1C(C(C2=CC=C(C=C12)Cl)C(C1=CC=CS1)=O)=O | C18H17ClN2O3S
